US06384080B1
To a solution of 2-(trans-4-hydroxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (100 mg), benzoic acid (32.5 mg) and diethyl azodicarboxylate (46.3 mg) in anhydrous tetrahydrofuran (2 mL) was added triphenylphosphine (69.8 mg). The mixture was stirred for 4 hours at ambient temperature. The mixture was partitioned between an aqueous saturated sodium bicarbonate solution and ethyl acetate. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (5:1 to 3:1). The obtained product was triturated with diisopropyl ether to give 2-[cis-4-(benzoyloxy)cyclohexylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (68.5 mg).

reactant | 2-(trans-4-hydroxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 100 mg | O[C@@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C21H23N3O6
reactant | benzoic acid | 32.5 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 46.3 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 69.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[cis-4-(benzoyloxy)cyclohexylamino]-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 68.5 mg | C(C1=CC=CC=C1)(=O)O[C@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C28H27N3O7
